US09388273B2
Synthesis of 2,4,4′,6 tetrahydroxydeoxybenzoin (THDB)
Phloroglucinol (39.5 g, 313 mmol), 4-hydroxyphenylacetonitrile (50.0 g, 376 mmol) and anhydrous ethyl ether (200 mL) were added to a roundbottom flask. Under a nitrogen atmosphere at 0° C., aluminum chloride (5.00 g, 39.3 mmol) was added and the flask was capped quickly. A steady stream of HCl(g), generated by addition of concentrated HCl(1) over calcium chloride, was piped into the mixture. This was continued for 6 hours, yielding a pink precipitate. The precipitate was kept overnight at 0° C., then filtered and refluxed in water (500 mL) for 2 hours. This produced a light red powder that was isolated by filtration and dried. The powder was dissolved in acetone and charged with charcoal to afford 42.9 g of pale yellow powder (54% yield). Mp 259° C. 1H NMR (DMSO-d6, ppm): 12.27 (s, 2H,2,6-OH), 10.41 (s, 1H, 4-OH), 9.23 (s, 1H, 4′-OH), 7.02 (d, 2H, J=8.1 Hz, H-2′,6′), 6.68 (d, 2H, J=8.1 Hz, H-3′,5′), 5.82 (s, 2H, H-3,5), 4.21(s, 2H, Ar—CH2—CO—Ar). 13C NMR (DMSO-d6, ppm): 203.5, 165.2, 164.7, 156.31, 131.0, 126.4, 115.4, 104.1, 95.2, 48.5.

reactant | Phloroglucinol | 313 mmol, 39.5 g | C1(O)=CC(O)=CC(O)=C1 | C6H6O3
reactant | 4-hydroxyphenylacetonitrile | 376 mmol, 50.0 g | OC1=CC=C(C=C1)CC#N | C8H7NO
reactant | aluminum chloride | 39.3 mmol, 5.00 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | Cl | ClH
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
reactant | ethyl ether | 200 mL | C(C)OCC | C4H10O
product | 2,4,4′,6 tetrahydroxydeoxybenzoin | 42.9 g, 54% yield | OC1=C(C(=CC(=C1)O)O)C(=O)CC1=CC=C(C=C1)O | C14H12O5
